US04468405
N-(((3,5-Dichloro-4-(2-chloro-1,1,2-trifluoroethoxy)phenyl)amino)carbonyl)-2,6-difluorobenzamide
2,6-Difluorobenzoyl isocyanate (5.5 g, 0.03 mole) was added to a solution of 3,5-dichloro-4-(2-chloro-1,1,2-trifluoroethoxy)benzenamine (8.8 g, 0.03 mole) in 150 ml toluene and heated under reflux with stirring for one hour giving a clear solution. Toluene was removed by evaporation in a rotary evaporator. The residue was recrystallized from aqueous acetic acid and then from acetonitrile giving a white solid (8.3 g, 58 percent yield), melting at 178°-180° C.

reactant | 2,6-Difluorobenzoyl isocyanate | 0.03 mole, 5.5 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
reactant | 3,5-dichloro-4-(2-chloro-1,1,2-trifluoroethoxy)benzenamine | 0.03 mole, 8.8 g | ClC=1C=C(C=C(C1OC(C(F)Cl)(F)F)Cl)N | C8H5Cl3F3NO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-(((3,5-Dichloro-4-(2-chloro-1,1,2-trifluoroethoxy)phenyl)amino)carbonyl)-2,6-difluorobenzamide | 8.3 g, 58 percent yield | ClC=1C=C(C=C(C1OC(C(F)Cl)(F)F)Cl)NC(=O)NC(C1=C(C=CC=C1F)F)=O | C16H8Cl3F5N2O3
